US04997595
Example 6: Synthesis of 4-(N,N-diethyl)amino-β-nitro-2-methoxystyrene (MeO-DEANST)
A solution was prepared by dissolving 30 grams (0.14 mol) of 2-methoxy-4-(N,N-diethylamino)benzaldehyde in 150 ml of nitromethane, and added with 4 grams of ammonium acetate. The mixture wa heated at 100° C. for 5 hours under agitation. The reaction solution was then cooled on a dry ice-acetone bath until crystallization had been completed. The separated solid (crystal) was filtered off and dried in vacuum. The obtained product was recrystallized from acetonitrile for two times. An amount of 16 grams of red crystals was obtained. The yield was 44%.

reactant | 2-methoxy-4-(N,N-diethylamino)benzaldehyde | 0.14 mol, 30 grams | COC1=C(C=O)C=CC(=C1)N(CC)CC | C12H17NO2
reactant | ammonium acetate | 4 grams | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 150 ml | [N+](=O)([O-])C | CH3NO2
product | 4-(N,N-diethyl)amino-β-nitro-2-methoxystyrene | 16 grams, yield was 44% | C(C)N(CC)C1=CC(=C(C=C[N+](=O)[O-])C=C1)OC | C13H18N2O3
